US07468464B2
3 M HCl (13 ml) was added to a solution of crude 4-cyclohexylmethyl resorcinol monoacetate (2.71 g) in methanol (70 ml) and the solution stirred at room temperature for 16 h. At this time, TLC showed the clean formation of product (Rf 0.14) and traces of starting material (Rf 0.48) (Note 11). The solvent was reduced to ⅓ volume under reduced pressure and partitioned between ethyl ether (300 ml) and 1 M HCl (100 ml), washed with saturated NaCl (100 ml), the aqueous layer back extracted with ethyl ether (200 ml), the organic layers dried (Na2SO4), filtered and the solvent removed to give 4-cyclohexyl methyl resorcinol as a light amber-colored oil which crystallized upon standing at room temperature (1.1 g, 75% yield). The crude product was purified by flash chromatography to give 4-cyclohexyl methyl resorcinol B2 as a white solid (617 mg, 51% yield) (Note 12): m.p. 112-113° C.; 1H NMR (60 MHz, acetone-d6) delta 1.08-1.76 (m, 11H), 2.44 (d, JJ=6.2 Hz, 2H), 6.26 (dd, JJ=7.9, 2.3 Hz, 1H), 6.39 (m, 1H), 6.86 (d, JJ=7.9 Hz, 1H), 7.90 (s, 1H); 13C NMR (60 MHz, acetone-d6) delta 27.3, 33.3, 38.2, 39.5, 102.9, 106.7, 119.0, 132.5, 157.0, 157.4; m/z (EI; TMS derivatized; M+) 350.

reactant | HCl | 3 M, 13 ml | Cl | ClH
reactant | 4-cyclohexylmethyl resorcinol monoacetate | 2.71 g | C(C)(=O)O.C1(CCCCC1)CC1=C(C=C(O)C=C1)O
solvent | methanol | 70 ml | CO | CH4O
product | 4-cyclohexyl methyl resorcinol | 75% yield | C1(CCCCC1)C1=C(C(=C(O)C=C1)C)O | C13H18O2
